US03969345
A stirred solution of 3α-hydroxy-5α-pregnan-20-one (5 g., 15.7 mmole) in AR methanol (350 c.c.) was treated at 0° with a solution of bromine (1 c.c.) in methanol (23 c.c.) at such a rate that the yellow colour disappeared before further addition. The resultant suspension was poured into water and stirred for 30 minutes, and the precipitate was collected by filtration and dried in vacuo. The product was purified by column chromatography on silica gel MFC, (700 g.). Elution with benzene:ethyl acetate, 1:1) gave 21-bromo-3α-hydroxy-5α-pregnan-20-one (5.2 g.) [α]D + 105.5°.

reactant | 3α-hydroxy-5α-pregnan-20-one | 15.7 mmole, 5 g | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C21H34O2
reactant | bromine | BrBr | Br2
reactant | water | O | H2O
solvent | methanol | CO | CH4O
product | 21-bromo-3α-hydroxy-5α-pregnan-20-one | 5.2 g | BrCC([C@H]1CC[C@H]2[C@@H]3CC[C@H]4C[C@@H](CC[C@]4(C)[C@H]3CC[C@]12C)O)=O | C21H33BrO2
